US08937078B2
Step B: Preparation of 1-(7-benzenesulfonyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(7-benzenesulfonyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid, ethyl ester (50 mg, 0.12 mmol), THF (2 mL) and aqueous 1M LiOH (0.6 mL, 0.6 mmol) was stirred for 16 h. The THF was removed under reduced pressure and aqueous 1M HCl (3 mL, 3 mmol) was added. The crude product was collected by filtration and purified by HPLC to afford the titled compound (7.0 mg, 14%). MS (ESI): mass calcd. for C18H12N4O5S, 396.1; m/z found, 397.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 13.43-12.81 (m, 2H), 8.99 (s, 1H), 8.34-8.25 (m, 2H), 8.18 (s, 1H), 8.05 (d, J=7.6, 2H), 7.96 (dd, J=8.3, 1.5, 1H), 7.78-7.71 (m, 1H), 7.71-7.63 (m, 2H).

reactant | 1-(7-benzenesulfonyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 0.12 mmol, 50 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(NC(=NC2=C1)N1N=CC(=C1)C(=O)OCC)=O | C20H16N4O5S
reactant | LiOH | 0.6 mmol, 1M, 0.6 mL | [Li+].[OH-]
reactant | HCl | 3 mmol, 1M, 3 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(7-benzenesulfonyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 7.0 mg, 14% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(NC(=NC2=C1)N1N=CC(=C1)C(=O)O)=O | C18H12N4O5S
